US04552866
(F) N-[N-[(3S)-3-Amino-2-hydroxybutyl]-L-phenylalanyl]-L-leucine, dihydrochloride (faster isomer)
To a solution of N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxybutyl]-L-phenylalanyl-L-leucine, t-butyl ester (faster isomer) (0.33 g, 0.64 mmol) in 3.5 ml of dichloromethane was added trifluoroacetic acid (2 ml). The resulting solution was stoppered and allowed to stand for 1 hour at room temperature, and the solvent was then evaporated. Analysis of the residue by 13C-NMR showed a considerable amount of unreacted t-butyl ester. The recovered material was treated with 10 ml of ~1.5N hydrogen chloride in acetic acid for 1.5 hours at room temperature. The solvent was evaporated (<25° C., vacuum pump) and the residue was triturated with ether yielding a white solid. Analysis by 13C-NMR again revealed t-butyl resonances, although diminished in intensity. The aforementioned hydrogen chloride/acetic acid treatment was repeated three more times, finally yielding 200 mg of the title compound as a white solid, melting point 174°-177° C. (changes form 127°-131° C.).

reactant | N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxybutyl]-L-phenylalanyl-L-leucine, t-butyl ester | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)O)C | C28H47N3O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | N-[N-[(3S)-3-Amino-2-hydroxybutyl]-L-phenylalanyl]-L-leucine, dihydrochloride | 200 mg | Cl.Cl.N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)O)C | InChI=1S/C19H31N3O4.2ClH/c1-12(2)9-16(19(25)26)22-18(24)15(21-11-17(23)13(3)20)10-14-7-5-4-6-8-14;;/h4-8,12-13,15-17,21,23H,9-11,20H2,1-3H3,(H,22,24)(H,25,26);2*1H/t13-,15-,16-,17?;;/m0../s1
